US04362891
2-(4-Dimethylvinylphenyl)Propionic Acid
A solution of p-toluenesulphonic acid monohydrate (8.4 g) in o-dichlorobenzene (60 ml) was heated at 110° to 120° and treated dropwise with a previously prepared solution of 2-[4-(1-hydroxy-2-dimethylethyl)phenyl]propionic acid (9 g) in o-dichlorobenzene (40 ml) over a period of 20 minutes at the same temperature. The reaction mixture was rapidly cooled to room temperature, poured into water and extracted several times with ether. The combined ethereal extracts were washed with water and then treated with a 5% solution of NaOH. The separated aqueous phase was acidified with a 10% solution of hydrochloric acid and extracted again with ether and the organic phase was separated.

reactant | p-toluenesulphonic acid monohydrate | 8.4 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | o-dichlorobenzene | 60 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | o-dichlorobenzene | 40 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(4-Dimethylvinylphenyl)Propionic Acid | CC(=CC1=CC=C(C=C1)C(C(=O)O)C)C | C13H16O2
